US05698699
2-Amino-3',4,4',5-tetramethoxybenzophenone hydrochloride (36.0 g) and ethyl 4-chloroacetoacetate (21.4 g) were stirred in ethanol (350 ml) under reflux for 7 hours. After completion of the reaction, triethylamine (10.6 g) was added dropwise at a temperature not over 20° C. and the mixture was stirred at 5° C. for 1 hour. The crystals were collected by filtration, washed twice with 50 ml each of ethanol and dried under reduced pressure to provide ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate (41.0 g; yield 92%).

reactant | 2-Amino-3',4,4',5-tetramethoxybenzophenone hydrochloride | 36.0 g | Cl.NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C(=C1)OC)OC
reactant | ethyl 4-chloroacetoacetate | 21.4 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | triethylamine | 10.6 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | 41.0 g, yield 92% | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H24ClNO6
